US05071999
b) Ethyl 2-benzyl-3-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
42.8 (0.25 mol) of ethyl N-allyl-N-(2-oxo -ethyl)-carbamate are heated under reflux overnight with 44.8 g (0.25 mol) of N-benzylalanine in 750 ml of toluene. The mixture is concentrated and the residue is distilled twice.

reactant | ethyl N-allyl-N-(2-oxo -ethyl)-carbamate | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | N-benzylalanine | 0.25 mol, 44.8 g | C(C1=CC=CC=C1)N[C@@H](C)C(=O)O | C10H13NO2
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-3-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | C(C1=CC=CC=C1)N1C2CN(CC2CC1C)C(=O)OCC | C17H24N2O2
